US07985764B2
A 500 mg portion of 2-methyl-1H-indole-5-carbonitrile was dissolved in 5 ml of dichloromethane, and 27.0 ml of 1 M tin tetrachloride (a dichloromethane solution) was added dropwise thereto at 0° C., followed by stirring at 0° C. for 10 minutes. Then, 0.27 ml of acetyl chloride was added thereto at 0° C., followed by overnight stirring at room temperature. A 25 ml portion of a 2 M sodium hydroxide aqueous solution was added thereto at 0° C. to adjust the pH to 12, followed by stirring at 0° C. for 1 hour and extraction with a 20% methanol-chloroform mixed solvent. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure to obtain 607 mg of 3-acetyl-2-methyl-1H-indole-5-carbonitrile as a beige solid.

reactant | 2-methyl-1H-indole-5-carbonitrile | CC=1NC2=CC=C(C=C2C1)C#N | C10H8N2
reactant | tin tetrachloride | 1 M, 27.0 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | acetyl chloride | 0.27 ml | C(C)(=O)Cl | C2H3ClO
reactant | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-acetyl-2-methyl-1H-indole-5-carbonitrile | 607 mg | C(C)(=O)C1=C(NC2=CC=C(C=C12)C#N)C | C12H10N2O
